US03968116
6-CHLORO-1-HYDROXY-2-(TRIFLUOROMETHYL)-1H-IMIDAZO(4,5-b) PYRIDINE
5-Chloro-3-nitro-2-(trifluoroacetamido)pyridine (2.0 grams) was hydrogenated with two moles of hydrogen in ethanol containing 0.5 gram of 5 percent palladium on carbon. The resulting reaction mixture was filtered and evaporated to separate the desired 6-chloro-1-hydroxy-2-(trifluoromethyl)-1H-imidazo-(4,5-b)pyridine compound which, after recrystallization from benzene melted at 268°-70°C.

reactant | 5-Chloro-3-nitro-2-(trifluoroacetamido)pyridine | 2.0 grams | ClC=1C=C(C(=NC1)NC(C(F)(F)F)=O)[N+](=O)[O-] | C7H3ClF3N3O3
reactant | hydrogen | two moles | [H][H] | H2
solvent | ethanol | 0.5 gram | C(C)O | C2H6O
catalyst | palladium on carbon | [Pd] | Pd
product | 6-CHLORO-1-HYDROXY-2-(TRIFLUOROMETHYL)-1H-IMIDAZO(4,5-b) PYRIDINE | ClC=1C=C2C(=NC1)N=C(N2O)C(F)(F)F | C7H3ClF3N3O
